US09126950B2
In a 100 ml 3-neck RBF equipped with a magnetic stirrer, calcium chloride guard tube were charged of 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine (1.10 g) in DMF (10 ml), and cesium carbonate (23.0 g), CH3I (0.641 g) was added. The reaction mixture was stirred at room temperature for 1 h. The reaction was monitored on TLC using hexane:ethyl acetate (5:5) as mobile phase. After completion, the reaction was poured into cold water. Solid precipitate was filtered out and washed with water. Solid material was dried under reduced pressure at 45° C. for 1 hr to give 1.00 g of 2-chloro-5-fluoro-N-methyl-N-(3-nitrophenyl)pyrimidin-4-amine, which was used in the next step without further purification. M+1=282.8. 1H NMR (DMSO-d6, 400 MHz) 3.50 (s, 3H), 7.701-7.741 (t, 1H, J=8), 7.883-7.902 (d, 1H, J=7.6), 8.287-8.300 (d, 1H, J=5.2), 8.325 (s, 1H).

reactant | 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine | 1.10 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)[N+](=O)[O-])F | C10H6ClFN4O2
reactant | cesium carbonate | 23.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | CH3I | 0.641 g | CI | CH3I
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-5-fluoro-N-methyl-N-(3-nitrophenyl)pyrimidin-4-amine | 1.00 g | ClC1=NC=C(C(=N1)N(C1=CC(=CC=C1)[N+](=O)[O-])C)F | C11H8ClFN4O2
